US05618814
2-(8-aza-1,4-dioxaspiro[4,5]decan-8-yl)-8-(N-benzyl-N-methyl-amino) -4-morpholino-pyrimido [5,4-d]pyrimidine From 2-chloro-8-(N-benzyl-N-methyl-amino)-4-morpholino-pyrimido[5,4-d]pyrimidine and 8-aza-1,4-dioxaspiro-[4,5]decane Yield: 58% of theory, Melting point: 143° C. C25H31N7O3 (477.58)

reactant | 2-(8-aza-1,4-dioxaspiro[4,5]decan-8-yl)-8-(N-benzyl-N-methyl-amino) -4-morpholino-pyrimido [5,4-d]pyrimidine | O1CCOC12CCN(CC2)C=2N=C(C1=C(N2)C(=NC=N1)N(C)CC1=CC=CC=C1)N1CCOCC1 | C25H31N7O3
reactant | 2-chloro-8-(N-benzyl-N-methyl-amino)-4-morpholino-pyrimido[5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)N(C)CC2=CC=CC=C2)N2CCOCC2 | C18H19ClN6O
product | 8-aza-1,4-dioxaspiro-[4,5]decane | Yield: 58% | O1CCOC12CCNCC2 | C7H13NO2
